US06037495
Synthesis of 2-(2-chloromethylphenyl)-2-oxoacetonitrile--(1)
A mixture of acetonitrile (100 ml), 95% sodium cyanide (6.19 g), 95% cuprous iodide (2.00 g) and quinoline (0.13 g) was stirred at 60° C. A solution of 2-chloromethylbenzoyl chloride (19.0 g) in acetonitrile (100 ml) was added dropwise to the reaction mixture over 3 hours. After completion of the addition, the mixture was stirred at 60° C. for 5 hours. After the reaction mixture was cooled by allowing it to stand, the reaction mixture was diluted with ether, and washed successively with water, a saturated aqueous solution of sodium bicarbonate and water. The ether layer thus obtained was dried over anhydrous sodium sulfate and at the same time decolorized with Norit SX-3. Evaporation of the solvent under reduced pressure gave the crude title compound (17.6 g, purity: about 72% determined by 1H-NMR analysis).

reactant | sodium cyanide | 6.19 g | [C-]#N.[Na+]
reactant | 2-chloromethylbenzoyl chloride | 19.0 g | ClCC1=C(C(=O)Cl)C=CC=C1 | C8H6Cl2O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | ether | CCOCC | C4H10O
catalyst | quinoline | 0.13 g | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 2-(2-chloromethylphenyl)-2-oxoacetonitrile | 17.6 g | ClCC1=C(C=CC=C1)C(C#N)=O | C9H6ClNO
